US04567270
α-[2-[bis(1-methylethyl)amino]ethyl]-α-phenyl-2-pyridinepropanenitrile
To a solution of 26 g (159 mmole) of 2-picolyl chloride hydrochloride in 50 ml of water was added in portions 22 g (159 mmoles) of potassium carbonate. The solution was extracted into diethyl ether, washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to oily 2-picolyl chloride. A mixture of 29.0 g (119 mmol) of α-[2-[bis(1-methylethyl)amino]ethyl]-phenylacetonitrile and 17.5 g (ca. 153 mmole) of potassium hydride (as a 30% dispersion in mineral oil) was heated for thirty minutes at 65°-70° in 550 ml of toluene. To this mixture was added a solution of the previously prepared 2-picolyl chloride dissolved in 400 ml of toluene. After the reaction mixture was stirred for thirty minutes at 70°, 400 ml of water was added. The toluene layer was separated and extracted with 10% hydrochloric acid. The acidic aqueous layer was separated and made basic with aqueous sodium hydroxide, then extracted with dichloromethane. The organic phase was washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. Column chromatography on silica gel afforded 18.7 g of the title compound as an oil. nmr (CDCl3): δ(ppm) 3.4 (pseudo-d, pyridyl-CH2 (non-equivalent H's)); 6.9-7.7 (m's, aromatic CH's); 8.4-8.6 (m, pyridine 6H).

reactant | 2-picolyl chloride hydrochloride | 159 mmole, 26 g | Cl.N1=C(C=CC=C1)CCl
reactant | potassium carbonate | 159 mmoles, 22 g | C([O-])([O-])=O.[K+].[K+]
reactant | α-[2-[bis(1-methylethyl)amino]ethyl]-phenylacetonitrile | 119 mmol, 29.0 g | CC(C)N(CCC(C#N)C1=CC=CC=C1)C(C)C | C16H24N2
reactant | potassium hydride | ca. 153 mmole, 17.5 g | [H-].[K+]
reactant | 2-picolyl chloride | N1=C(C=CC=C1)CCl | C6H6ClN
solvent | water | 50 ml | O | H2O
solvent | toluene | 550 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 400 ml | O | H2O
product | α-[2-[bis(1-methylethyl)amino]ethyl]-α-phenyl-2-pyridinepropanenitrile | 18.7 g | CC(C)N(CCC(C#N)(CC1=NC=CC=C1)C1=CC=CC=C1)C(C)C | C22H29N3
